US03957871
A solution of 100 grams (0.403 mole) of p-iodobenzoic acid in 600 ml. of abs. ethanol containing 30 ml. of concentrated sulfuric acid is refluxed for 5 days. The cooled solution is poured over 350 grams of ice and is neutralized with saturated sodium carbonate solution. The oil that separates is extracted with six 150 ml. portions of ether. These ether extracts are combined, washed with water, dried over magnesium sulfate, and filtered. Evaporation of the ether gives 131.3 grams of ethyl-4-iodobenzoate as a chromatographically pure, clear, light oil.

reactant | p-iodobenzoic acid | 0.403 mole, 100 grams | C1=CC(=CC=C1C(=O)O)I | C7H5IO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl-4-iodobenzoate | 131.3 grams | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
